US05171854
7-Amino-3-[(Z)-2-cyclopropyl-vinyl]-3-cephem-4-carboxylic acid
6 g (0.0156 mol) of 7-phenylacetamido-3-[(Z)-2-cyclopropyl-viny]-3-cephem-4-carboxylic acid are suspended in 320 ml of water and the suspension is brought to pH 7.8 with half-concentrated ammonia solution, whereupon an almost clear solution forms. The solution is warmed to 37° C. and 35 g of penicillin-acylase resin are added. The reaction solution is titrated further to pH 7.8 with ammonia and kept at 37° C. for 5 hours. The resin is then filtered off with suction and the filtrate is concentrated down to a volume of 50 ml. The concentrated solution is brought to pH 4.2 with 2N HCl, whereupon the product precipitates out and is filtered off with suction and washed with water and acetone.

reactant | 7-phenylacetamido-3-[(Z)-2-cyclopropyl-viny]-3-cephem-4-carboxylic acid | 0.0156 mol, 6 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2CC2)C(=O)O)C1=O | C20H20N2O4S
reactant | ammonia | N | H3N
reactant | penicillin | 35 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
solvent | water | 320 ml | O | H2O
product | 7-Amino-3-[(Z)-2-cyclopropyl-vinyl]-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)\C=C/C2CC2)C(=O)O)C1=O | C12H14N2O3S
